US04698337
A solution of 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 10.5 g.) in water (300 ml.) was adjusted to pH 4.0 and subjected to column chromatography on nonionic adsorption resin "Diaion HP-20" (trademark, manufactured by Mitsubishi Chemical Industries Ltd.). After washing the column with water (200 ml.), the object compound was eluted with 20% isopropyl alcohol. The eluate was lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 7.2 g.).

reactant | 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 10.5 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCO
solvent | water | 300 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 7.2 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCO | C17H17N7O6S4
